US08044052B2
Synthesis of 4-(3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide
2-(3-Bromo-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine (0.58 g, 1.4 mmol) and phenyl pyridin-3-ylcarbamate (0.3 g, 1.4 mmol) were dissolved in DMSO (3 mL). Triethylamine (0.59 mL, 4.21 mmol) was added and the reaction was stirred overnight. The reaction mixture was diluted with water and extracted with ethyl acetate three times. The organic layer was washed with brine, dried over Na2SO4, and evaporated to dryness. The residue was purified by silica gel column chromatography (35% acetone in hexane) to give the title compound (0.5 g, 67%). 1H NMR (500 MHz, DMSO-d6): δ 8.44 (s, 2H), 8.25 (d, J=4.4 Hz, 1H), 7.99 (d, J=7.8 Hz, 1H), 7.92 (d, J=10.45 Hz, 1H), 7.22 (m, 2H), 7.20 (s, 1H), 7.04 (d, J=8.6 Hz, 1H), 6.93 (s, 1H), 6.83 (s, 1H), 6.34 (s, 1H), 3.60 (m, 2H), 3.52 (m, 2H), 2.56 (m, 2H), 2.44 (m, 2H). 13C NMR (125 MHz, CDCl3): δ 165.16, 154.72, 153.51, 145.38, 143.81, 141.22, 140.33, 139.66, 136.99, 136.36, 128.85, 127.64, 123.63, 123.26, 122.83, 122.48, 120.73, 111.68, 45.59, 44.60, 35.71, 29.29, 29.17; m/z (533.2, 535.2, M+ H+); HPLC: 99.0%.

reactant | 2-(3-Bromo-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine | 1.4 mmol, 0.58 g | BrC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=C(C1)C=C1CCNCC1 | C18H16BrF3N2O
reactant | phenyl pyridin-3-ylcarbamate | 1.4 mmol, 0.3 g | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | Triethylamine | 4.21 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 0.5 g, 67% | BrC=1C=C(C=C2CCN(CC2)C(=O)NC=2C=NC=CC2)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C24H20BrF3N4O2
